US06552068B1
Starting with (3RS,4RS)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-4-(2-propenyl)-3-propylchroman prepared as in Example 21 and ethyl 2-(5,5,6,6,6-pentafluorohexyl)-8-nonenoate prepared separately, the same procedure as shown in Example 21 was repeated to give 10-[(3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-propylchroman-4-yl]-2-(5,5,6,6,6-pentafluorohexyl)decanoic acid.

reactant | (3RS,4RS)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-4-(2-propenyl)-3-propylchroman | COCOC1=CC=C2C(C(COC2=C1)(CCC)C1=CC=C(C=C1)OCOC)CC=C | C25H32O5
reactant | ethyl 2-(5,5,6,6,6-pentafluorohexyl)-8-nonenoate | FC(CCCCC(C(=O)OCC)CCCCCC=C)(C(F)(F)F)F | C17H27F5O2
product | 10-[(3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-propylchroman-4-yl]-2-(5,5,6,6,6-pentafluorohexyl)decanoic acid | OC1=CC=C2C(C(COC2=C1)(CCC)C1=CC=C(C=C1)O)CCCCCCCCC(C(=O)O)CCCCC(C(F)(F)F)(F)F | C34H45F5O5
